US09056859B2
To a 20 mL microwave tube charged with 5-bromo-2-benzofuran-1(3H)-one (500 mg, 2.35 mmol) and palladium tetrakis triphenylphosphine (136 mg, 0.117 mmol) in THF (5 mL) was added (2-tert-butoxy-2-oxoethyl) (chloro) zinc (6.57 mL, 0.5 M, 3.29 mmol). The mixture was purged with nitrogen 3 times, and heated to 105° C. for 30 minutes in a microwave reactor. The reaction mixture was poured into water and filtered then extracted with ethyl acetate twice. The organic layer was ashed with brine, dried, and evaporated to dryness. The residue was purified by MPLC on a 40 g ISCO Redi-Sep column to yield tert-butyl (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate. 1H-NMR (500 MHz, CDCl3) δ ppm 7.89 (d, J=7.7 Hz, 1H), 7.46 (d, J=8.3 Hz, 1H), 7.44 (s, 1H), 5.33 (s, 2H), 3.69 (s, 2H), 1.47 (s, 9H).

reactant | 5-bromo-2-benzofuran-1(3H)-one | 2.35 mmol, 500 mg | BrC1=CC2=C(C(OC2)=O)C=C1 | C8H5BrO2
reactant | (2-tert-butoxy-2-oxoethyl) (chloro) zinc | 3.29 mmol, 0.5 M, 6.57 mL | C(C)(C)(C)OC(C[Zn]Cl)=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate | O=C1OCC2=C1C=CC(=C2)CC(=O)OC(C)(C)C | C14H16O4
